US06162826
5 g (22.1 mmol) of methyl (4aS,7aS)-1-hydroxy-7-hydroxymethyl-1,4a,5,7a-tetrahydrocyclopenta[c]pyran-4-carboxylate was dissolved in 25 ml of methanol and catalytic amount of trifluoroboron diethylether was added thereto. The reaction mixture was stirred at room temperature for 20 hours and then the reaction was stopped by the addition of saturated aqueous sodium bicarbonate solution. The organic layer was separated, dried over anhydrous magnesium sulfate, filtered, and distilled under vacuum. The residue was purified by silica gel column chromatography (eluent: n-hexane/ethylacetate=5/1, v/v) to obtain 5.26 g (Yield 100%) of methyl (1R,4aS,7aS)-7-hydroxymethyl-1-methoxy-1,4a,5,7a-tetrahydrocyclopenta[c]pyran-4-carboxylate as an oil.

reactant | methyl (4aS,7aS)-1-hydroxy-7-hydroxymethyl-1,4a,5,7a-tetrahydrocyclopenta[c]pyran-4-carboxylate | 22.1 mmol, 5 g | OC1OC=C([C@@H]2[C@H]1C(=CC2)CO)C(=O)OC | C11H14O5
reactant | trifluoroboron diethylether | FB(F)F.C(C)OCC
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | n-hexane ethylacetate | CCCCCC.C(C)OC(C)=O
solvent | methanol | 25 ml | CO | CH4O
product | methyl (1R,4aS,7aS)-7-hydroxymethyl-1-methoxy-1,4a,5,7a-tetrahydrocyclopenta[c]pyran-4-carboxylate | 5.26 g, Yield 100% | OCC1=CC[C@H]2[C@@H]1[C@@H](OC=C2C(=O)OC)OC | C12H16O5
